US04397853
3-Chloromethyl-5-(4-fluorophenyl)-4,5-dihydroisoxazole (40 g), 52 g of 4-(5-chloro-2-oxo-1-benzimidazolinyl)piperidine, 30 g of potassium carbonate, 15 g of potassium iodide and 1 liter of ethanol are heated to a temperature of 70° to 75° C. with stirring for 48 hours. The reaction mixture is then filtered and the mother liquor is condensed under reduced pressure. To the residue are added 800 ml of chloroform and 500 ml of water and the mixture is stirred. The organic layer is separated off, washed with water and dried on magnesium sulfate, and the solvent is distilled off. To the resulting residue are added 130 ml of acetone and 100 ml of isopropyl ether. The crystals thus precipitated are filtered and recrystallized from a mixture of acetone (400 ml) and isopropyl ether (450 ml), to give 67.5 g of 1-[5-(4-fluorophenyl)-4,5-dihydroxyisoxazol-3-ylmethyl]-4-(5-chloro-2-oxo-1-benzimidazolinyl)piperidine having a melting point of 163° to 164° C. Hydrochloride of this compound melts at 216° C. (decomposition).

reactant | 3-Chloromethyl-5-(4-fluorophenyl)-4,5-dihydroisoxazole | 40 g | ClCC1=NOC(C1)C1=CC=C(C=C1)F | C10H9ClFNO
reactant | 4-(5-chloro-2-oxo-1-benzimidazolinyl)piperidine | 52 g | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 15 g | [I-].[K+]
reactant | water | 500 ml | O | H2O
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 1-[5-(4-fluorophenyl)-4,5-dihydroxyisoxazol-3-ylmethyl]-4-(5-chloro-2-oxo-1-benzimidazolinyl)piperidine | 67.5 g | FC1=CC=C(C=C1)C1(C(=C(NO1)CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O)O)O | C22H22ClFN4O4
